US08703797B2
4-Methyl-1,8-naphthyridin-2(1 H)-one:
A solution of 1.3 g of tert-butyl 3-hydroxy-3-(2-pivalamidopyridin-3-yl)butanoate (3.9 mmol) in 2 mL 3N HCl was microwaved at 160° C. for 5 minutes. The resulting mixture was washed with Et2O (2×10 mL). The aqueous layer was basified using saturated K2CO3. The precipitate formed was filtered and washed with water to give 440 mg (71%) of the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.40 (d, J=1.17 Hz, 3 H) 6.43 (s, 1 H) 7.24 (dd, J=7.91, 4.69 Hz, 1 H) 8.12 (dd, J=7.91, 1.76 Hz, 1 H) 8.49 (dd, J=4.69, 1.76 Hz, 1 H) 11.92 (br. s., 1 H).

reactant | tert-butyl 3-hydroxy-3-(2-pivalamidopyridin-3-yl)butanoate | 3.9 mmol, 1.3 g | OC(CC(=O)OC(C)(C)C)(C)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C18H28N2O4
solvent | HCl | 3N, 2 mL | Cl | ClH
product | 4-Methyl-1,8-naphthyridin-2(1 H)-one | 440 mg, 71% | CC1=CC(NC2=NC=CC=C12)=O | C9H8N2O
